US04293561
A solution of 1.2 g of 1-[3-hydroxy-3-(2-naphthyl)-n-propyl]imidazole in 20 ml of dry hexamethylphosphoramide is treated between 5°-10° C. with stirring under nitrogen with 0.24 g of a 50% dispersion of sodium hydride in mineral oil. The mixture is stirred one hour at 10° C., one hour at 50° C., and then cooled in ice. Methyl iodide (0.8 g.) in 2 ml of hexamethylphosphoramide is added with stirring maintaining the temperature below 10° C. and the mixture stirred at 5° C. for 1 hour and overnight at room temperature. The resulting mixture is poured into water, the product extracted with ether and the extracts washed, dried (MgSO4) and evaporated to give a yellow oil. Chromatography on silica gel eluting with 10% methanol in dichloromethane gives pure 1-[3-methoxy-3-(2-naphthyl)-n-propyl]imidazole. This is converted to its hydrogen sulfate addition salt by dropwise addition of sulfuric acid to a solution in ether and recrystallized from methanol/ethyl acetate to give 1-[3-methoxy-3-(2-naphthyl)-n-propyl]imidazole hydrogen sulfate, m.p. 122°-122.5° C.

reactant | 1-[3-hydroxy-3-(2-naphthyl)-n-propyl]imidazole | 1.2 g | OC(CCN1C=NC=C1)C1=CC2=CC=CC=C2C=C1 | C16H16N2O
reactant | sodium hydride | [H-].[Na+]
reactant | Methyl iodide | 0.8 g | CI | CH3I
reactant | water | O | H2O
solvent | hexamethylphosphoramide | 20 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | hexamethylphosphoramide | 2 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 1-[3-methoxy-3-(2-naphthyl)-n-propyl]imidazole | COC(CCN1C=NC=C1)C1=CC2=CC=CC=C2C=C1 | C17H18N2O
